US06150385
Preparation of tert-Butyl N-{2-[(5-amino-1,3,4-thiadiazol-2-yl)amino]ethyl}carbamate.
A mixture of 5-bromo-1,3,4-thiadiazol-2-ylamine (5.40 g), K2HPO4 (7.84 g), and Boc-ethylenediamine (9.6 g) in 20 ml of DMF is stirred at ambient temperature for 18 hours. The solid paste obtained is recrystallized from 100 ml of acetonitrile and 100 ml of water to provide 6.18 g (79%) of the title compound.

reactant | 5-bromo-1,3,4-thiadiazol-2-ylamine | 5.40 g | BrC1=NN=C(S1)N | C2H2BrN3S
reactant | K2HPO4 | 7.84 g | OP(=O)([O-])[O-].[K+].[K+]
reactant | Boc-ethylenediamine | 9.6 g | C(=O)(OC(C)(C)C)NCCN | C7H16N2O2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | tert-Butyl N-{2-[(5-amino-1,3,4-thiadiazol-2-yl)amino]ethyl}carbamate | 6.18 g, 79% | NC1=NN=C(S1)NCCNC(OC(C)(C)C)=O | C9H17N5O2S
